US06586447B1
10C. 6-Bromo-7-methyl-1-naphthalen-2-ylmethyl-1,3-dihydro-indol-2-one
6-Bromo-7-methyl-1-naphthalen-2-ylmethyl-1H-indole-2,3-dione (1.04 g, 2.58 mmol) was dissolved in 20 ml of hydrazine hydrate and refluxed for 120 minutes. The reaction mixture was poured into cold water, extracted in ethyl acetate, dried over MgSO4, filtered and concentrated under vacuum to give the crude product. It was chromatographed on flash silica gel eluting with 5% ethyl acetate in hexane to yield the title compound of 2C (0.592 g, 59% yield).

reactant | 6-Bromo-7-methyl-1-naphthalen-2-ylmethyl-1H-indole-2,3-dione | 2.58 mmol, 1.04 g | BrC1=CC=C2C(C(N(C2=C1C)CC1=CC2=CC=CC=C2C=C1)=O)=O | C20H14BrNO2
reactant | water | O | H2O
solvent | hydrazine hydrate | 20 ml | O.NN
product | 6-Bromo-7-methyl-1-naphthalen-2-ylmethyl-1,3-dihydro-indol-2-one | BrC1=CC=C2CC(N(C2=C1C)CC1=CC2=CC=CC=C2C=C1)=O | C20H16BrNO
